US04246263
4-(2,3-Dihydroxy-1-propylthiomethyl)pyridine
Sodium methoxide (3.24 g., 60 mmoles) was dissolved in 36 ml. of absolute ethanol under a nitrogen atmosphere and the stirred solution cooled in an ice bath. With continued cooling, finely divided 4-picolyl chloride hydrochloride (5.07 g., 30 mmoles), slurried in approximately 35 ml. of absolute ethanol, was added over 15 minutes, followed by a solution to 3-mercapto-1,2-propanediol (3.24 g., 30 mmoles) in 6 ml. of absolute alcohol added dropwise over approximately 5 minutes. The reaction mixture was left to warm to room temperature and stirred overnight (16 hours). The reaction mixture was clarified by filtration through diatomaceous earth; the insolubles and the diatomaceous earth were extracted with ethanol, the original filtrate combined with the extract, and the whole concentrated to an oil (5.83 g.). Vacuum distillation, which appeared to produce considerable degradation, gave approximately 2.0 ml. of reasonably pure product (b.p. 230° C./0.3 mm.). The distillate was taken up in cold methanol, a solid impurity removed by filtration, and purified 4-(2,3-dihydroxy-1-propylthiomethyl)pyridine recovered by evaporating the filtrate to an oil (2.15 g.; ir (film): 2.97, 3.46, 3.50, 6.21, 7.05, 9.40 and 12.25μ).

reactant | Sodium methoxide | 60 mmoles, 3.24 g | C[O-].[Na+]
reactant | ethanol | C(C)O | C2H6O
reactant | 4-picolyl chloride hydrochloride | 30 mmoles, 5.07 g | Cl.N1=CC=C(C=C1)CCl
reactant | 3-mercapto-1,2-propanediol | 30 mmoles, 3.24 g | SCC(CO)O | C3H8O2S
solvent | methanol | CO | CH4O
product | 4-(2,3-Dihydroxy-1-propylthiomethyl)pyridine | OC(CSCC1=CC=NC=C1)CO | C9H13NO2S
